2144-10-20 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2144-10-19**] 01:00 PM
 MULTI LUMEN - START [**2144-10-19**] 02:00 PM
   ARTERIAL LINE - START [**2144-10-19**] 06:18 PM
 FEVER - 101.2
F - [**2144-10-20**] 01:00 AM
   Held Anticoagulation for Rigid bronch
   Had rigid bronch this am with LMS debridement, however unable to place
   stent. Copious brown secretions seen distally
   Goal of Hct >30, pm hct was 37.0 from 20.3 following 2 units.
   No Intracranial bleed, stable hypodensity in cerebellum.
   Started on Amio drip for AF with RVR and Hypotension at 4:30am. Not
   cardioverted since rhythm not sustained
   On neo
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-19**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-10-20**] 03:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 75 mcg/hour
   Phenylephrine - 2 mcg/Kg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-10-19**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-20**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 133 (81 - 168) bpm
   BP: 86/60(72) {78/48(63) - 106/70(84)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,759 mL
                                                                    344 mL
   PO:
             TF:
   IVF:
                                                                  1,239 mL
                                                                    344 mL
   Blood products:
                                                                    521 mL
   Total out:
                                                                    405 mL
                                                                    150 mL
   Urine:
                                                                    405 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,354 mL
                                                                    194 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 400) mL
   Vt (Spontaneous): 338 (338 - 338) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.35/51/189/26/1
   Ve: 10.5 L/min
   PaO2 / FiO2: 378
   Physical Examination
   General: Intubated, sedated, opens eyes, nodding head to questions,
   interactive
   HEENT: Pupils 3mm,  ERRL. Neck supple, JVP 7cm
   CV: Irreg. Tachy. No m/r/g
   Resp: Decreased BS on left with coarse BS on right, with inspiratory
   and exp wheezes.
   Abd: Soft. NT ND +BS
   Ext: R groin line dsg c/d/i. No hematoma. Slight mottling of
   extremitites. No c/c/e. MAE
   Labs / Radiology
   644 K/uL
   11.8 g/dL
   103 mg/dL
   0.4 mg/dL
   26 mEq/L
   5.6 mEq/L
   18 mg/dL
   99 mEq/L
   133 mEq/L
   35.7 %
   21.6 K/uL
        [image002.jpg]
   Sputum gram stain 3+ OP flora, cx pending
   Blood cx, urine cx pending
                             [**2144-10-19**]  03:15 PM
                             [**2144-10-19**]  07:07 PM
                             [**2144-10-19**]  08:30 PM
                             [**2144-10-19**]  10:53 PM
                             [**2144-10-20**]  12:24 AM
                             [**2144-10-20**]  04:29 AM
                             [**2144-10-20**]  04:44 AM
   WBC
   21.6
   Hct
   37.0
   35.7
   Plt
   644
   Cr
   0.5
   0.4
   TCO2
   29
   30
   29
   29
   Glucose
   130
   103
   Other labs: PT / PTT / INR:13.8/33.1/1.2, Differential-Neuts:92.8 %,
   Lymph:4.9 %, Mono:2.2 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Ca++:8.4
   mg/dL, Mg++:2.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A/P: 63y.o. F with a PMH of metastatic non small cell Lung CA admitted
   with acute respiratory distress now s/p PEA arrest and found to have L
   lung collapse.
   .# Hypoxic/Hypercarbic Respiratory Failure - Pt found to have L lung
   collapse. Pt with known left hilar lung mass with encasement of the
   left-sided bronchi, now with collapse. Had rigid bronch this am but
   unable to stent LMS. Has had increased aeration since bronch by CXR.
   Tidal volume decreased, RR increased overnight since essentially single
   lung ventilation given LL collapse. W
   - Repeat ABg post bronch and reassess
   - consult Rad Onc for possible further management
   -  Will cover for possible post-obstructive PNA with Vanc/Zosyn
   - Continue invasive ventilation with AC, TV 350, Rate 24, FIO2 50%.
   Will alter based on repeat ABG after debridement
   - If pt has hemoptysis overnight, protect R lung with positioning
   patient L side down, consider R main stem intubation
   - Will need ENT eval post extubation given vocal cord trauma
   .
   # S/P PEA Arrest - PEA arrest in the setting of respiratory failure and
   hypovolemia. Responded to epi and atropine
   - Cycle CE
   - Replete lytes, check ionized Ca, K and Mg
   - Treat underlying cause as above
   - CT Head negative for bleed and ischemia. Consider head MRI once
   stable.
   # [**Name (NI) 1531**] - Pt requiring pressors s/p PEA arrest. Extremities clamped
   down. Likely septic vs cardiogenic [**Name (NI) **] since still requiring
   pressors. Septic [**Name (NI) **] most likely given fever, likely post obstructive
   PNA. Also consideration of cardiogenic considering PEA arrest.
   - continue neo for goal MAP>60, avoid levophed given rapid AF in ED
   - cycle CE and monitor on telemetry
   - TTE to assess WMA, thrombus
   - Transfuse for HCT>25
   - Given pt recently completed course of dexamethasone for brain met
   will give stress dose steroids with hydrocort 50 Q8
   .
   # Metastatic Non Small Cell Lung Ca - metastatic to right adrenal and
   cerebellum, s/p cyber knife therapy.  Treatment of lung mass as above.
   .
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] - holding Lovenox overnight given low HCT, repeat TTE
   today, will restart in am
   .
   # Anemia - HCT drop to 20 from baseline (30-34) of unclear etiology. CT
   Abd and Pelvis negative for bleed. Possible hemorrhage related to lung
   CA and L lung collapse. HCT up to 35, stable.
   - keep HCT>25 given cardiac arrest
   - Guaiac stools
   # Atrial Fibrillation - likely worsening in setting of hypoxia and
   levophed use - will switch pressor to neosynephrine
   - holding metoprolol given [**Last Name (Prefixes) **]
   - holding lovenox for now since recently had hemoptysis and
   bronchoscopy
   .
   # Hydronephrosis - CT A&P demonstrates poorly placed R ureteral stent -
   outpatient follow up
   .
   # COPD - continue albuterol and atrovent nebs
   - monitor vent for evidence of autopeep
   .
   # HTN - holding outpatient meds given hypotension
   .
   # FEN - NPO for now. If ABG worse, cannot tolerate PSV, will place OGT
   and start TF. If able to be extubated, will restart diet
   .
   # Access - Femoral line, R art line
   .
   # Code - Full
   .
   # Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-10-19**] 02:00 PM
   Multi Lumen - [**2144-10-19**] 02:00 PM
   Arterial Line - [**2144-10-19**] 06:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-10-20 12:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2144-10-19**] 01:00 PM
 MULTI LUMEN - START [**2144-10-19**] 02:00 PM
 EKG - At [**2144-10-19**] 02:15 PM
 ARTERIAL LINE - START [**2144-10-19**] 06:18 PM
 PAN CULTURE - At [**2144-10-19**] 08:30 PM
   BC x2, urine, sputum
 EKG - At [**2144-10-20**] 05:15 AM
 FEVER - 101.2
F - [**2144-10-20**] 01:00 AM
   Head CT no bleed- stable met
   To OR for rigid bronch- debrided tumor.  Unable to place stent
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2144-10-20**] 03:00 AM
   Vancomycin - [**2144-10-20**] 07:30 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 75 mcg/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-10-20**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2144-10-20**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.3
C (97.4
   HR: 81 (77 - 168) bpm
   BP: 106/53(73) {78/48(63) - 119/79(95)} mmHg
   RR: 24 (15 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,759 mL
                                                                  4,117 mL
   PO:
             TF:
   IVF:
                                                                  1,239 mL
                                                                  4,117 mL
   Blood products:
                                                                    521 mL
   Total out:
                                                                    405 mL
                                                                    290 mL
   Urine:
                                                                    405 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,354 mL
                                                                  3,827 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 400) mL
   Vt (Spontaneous): 338 (338 - 338) mL
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 18 cmH2O
   SpO2: 92%
   ABG: 7.35/51/189/26/1
   Ve: 8.8 L/min
   PaO2 / FiO2: 378
   Physical Examination
    Gen Intubated and sedated
   HEENT
   Cv RR
   Chest: coarse insp and exp wheeze over left chest
   Abd: soft NT
   Ext: slight mottling feet and hands, but overall warm
   Labs / Radiology
   11.8 g/dL
   644 K/uL
   103 mg/dL
   0.4 mg/dL
   26 mEq/L
   5.6 mEq/L
   18 mg/dL
   99 mEq/L
   133 mEq/L
   35.7 %
   21.6 K/uL
        [image002.jpg]
                             [**2144-10-19**]  03:15 PM
                             [**2144-10-19**]  07:07 PM
                             [**2144-10-19**]  08:30 PM
                             [**2144-10-19**]  10:53 PM
                             [**2144-10-20**]  12:24 AM
                             [**2144-10-20**]  04:29 AM
                             [**2144-10-20**]  04:44 AM
   WBC
   21.6
   Hct
   37.0
   35.7
   Plt
   644
   Cr
   0.5
   0.4
   TCO2
   29
   30
   29
   29
   Glucose
   130
   103
   Other labs: PT / PTT / INR:13.8/33.1/1.2, Differential-Neuts:92.8 %,
   Lymph:4.9 %, Mono:2.2 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Ca++:8.4
   mg/dL, Mg++:2.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   63 yr old woman with Stage IV lung Ca presents with resp arrest,
   cardiac arrest, and hypotension.
   Possible evolution of events was that hemoptysis evolved, clotted off
   left mainstem leading to resp distress and ultimately arrest from
   hypoxemia.
   Problems
   [**Name (NI) 1531**]
   Respiratory Failure
   Anemia
   1.       Hypoxemic Resp Distress: due to left lung collapse with
   possible post obstructive blood and or pus. Currently on AC 400 x 10,
   PIP 24, and last gas with quite hypercarbia- since she has COPFD and is
   one lung vented ? autoPEEP and created Zone 1 lung. We will try smaller
   volume and slightly faster rate. Place A line for frequent ABGs and
   hemodynamics. If she bleeds needs left lung down, advance ETT into
   right mainstem and alert IP for urgent intervention. Could also try
   endobronchial blocker. We will cover with Vanco Zosyn for possible post
   obstructive PNA esp with plans for intervention in AM.
   2.       [**Name (NI) 1531**]: Cardiac Arrest: seems that she was hypoxemic then
   bradycardic then PEA
 resolved with brief epi/atrop/CPR
 currently on
   Neo but weaning off
 goal MAP 60-65, maintain UOP 30cc/hr. Formal Echo
   to be done. Cycle CKs.
   3.       Anemia: source of blood loss unclear, not GI source, Abd CT
   neg for RP or abd bleed, may be blood in chest as source of loss though
   not overt hemoptysis now.
   4.       [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 1532**]- likely murantic- we have to hold anti coagulation
   acutely but will need to re evaluate once rigid bronch done and risks
   benefits can be assessed.
   5.       Neuro: post arrest- short down time by report. Will check stat
   head CT to look for blled (known mets). Serail Neuro exams throughout
   evening
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-10-19**] 02:00 PM
   Multi Lumen - [**2144-10-19**] 02:00 PM
   Arterial Line - [**2144-10-19**] 06:18 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP: hob chlorhex,
   Communication:  with sons
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2144-10-21 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had bronchoscopy yesterday in AM with LMS debridement
   ECHO: Dilated right ventricle with borderline normal function.
   Preserved left ventricular systolic function. Compared with the prior
   study (images reviewed) of [**2144-10-19**], right ventricle appears more
   dilated and hypokinetic.
   Still on neo, Amio drip off; On Versed/fentanyl for sedation
   Rad Onc commented: little benefit from further radiation
   Arterial line failed to draw. Removed.
   Failed CPAP trial with desats, increased HR and RR
   Given Lasix 10 IV with little response
   Had bronchoscopy and US guided thoracentesis this am
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-20**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-10-21**] 12:02 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Amiodarone - 0.5 mg/min
   Phenylephrine - 1.3 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-10-20**] 10:00 PM
   Furosemide (Lasix) - [**2144-10-21**] 05:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-21**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 79 (75 - 141) bpm
   BP: 108/103(105) {87/50(67) - 155/145(149)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,081 mL
                                                                    553 mL
   PO:
             TF:
             44 mL
   IVF:
                                                                  5,081 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    185 mL
   Urine:
                                                                    620 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,461 mL
                                                                    368 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (350 - 450) mL
   Vt (Spontaneous): 636 (636 - 672) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.38/45/90.[**Numeric Identifier 299**]/25/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General: Intubated, sedated, but responsive, awakens to voice,
   following commands
   HEENT: nc/at PERRL 3 mm. EOMI
   CV: tachy, irregular. No m/r/g
   Resp:Improved air movement on left. Coarse vented BS. Exp wheezes
   throughout. Crackles on L
   ABd: Soft. Nt/ND. +BS
   Ext: 1+ edema RLE. No c/c/e LLE
   Neuro: following commands, MAE
   Labs / Radiology
   440 K/uL
   11.5 g/dL
   168 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.9 mEq/L
   19 mg/dL
   98 mEq/L
   131 mEq/L
   34.9 %
   18.1 K/uL
        [image002.jpg]
   Sputum cx: Moderate growth OP flora
   BAL: 2+ GPC prs, clusters, 2+ GPR
                             [**2144-10-19**]  08:30 PM
                             [**2144-10-19**]  10:53 PM
                             [**2144-10-20**]  12:24 AM
                             [**2144-10-20**]  04:29 AM
                             [**2144-10-20**]  04:44 AM
                             [**2144-10-20**]  02:10 PM
                             [**2144-10-20**]  03:34 PM
                             [**2144-10-20**]  06:48 PM
                             [**2144-10-21**]  03:00 AM
                             [**2144-10-21**]  04:43 AM
   WBC
   21.6
   18.1
   Hct
   37.0
   35.7
   34.9
   Plt
   644
   440
   Cr
   0.4
   0.6
   TropT
   0.01
   TCO2
   30
   29
   29
   28
   27
   28
   28
   Glucose
   103
   152
   168
   Other labs: PT / PTT / INR:13.8/33.1/1.2, CK / CKMB /
   Troponin-T:19/5/0.01, Differential-Neuts:92.8 %, Lymph:4.9 %, Mono:2.2
   %, Eos:0.1 %, Lactic Acid:1.6 mmol/L, Ca++:8.4 mg/dL, Mg++:2.9 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   A/P: 63y.o. F with a PMH of metastatic non small cell Lung CA admitted
   with acute respiratory distress now s/p PEA arrest and L lung collapse.
   # Hypoxic/Hypercarbic Respiratory Failure - Pt found to have L lung
   collapse with improved aeration s/p debridement. Pt with known left
   hilar lung mass with encasement of the left-sided bronchi, now with
   collapse. Had rigid bronch yesterday but unable to stent LMS. Has had
   increased aeration since bronch by CXR. Tidal volume increased
   overnight with improved ABGs
   - Repeat ABg post bronch and reassess, may have improved respirataory
   status after thoracentesis
   - Will cover for possible post-obstructive PNA with Vanc/Zosyn, F/U cx
   - Continue invasive ventilation with AC, Pressure support trials.  Will
   alter based on repeat ABGs
   - If pt has hemoptysis overnight, protect R lung with positioning
   patient L side down, consider R main stem intubation
   - Will need ENT eval post extubation given vocal cord trauma
   - Lasix 40 IV given for possibility of fluid overload contributing to
   respiratory distress and +multiple liters over hospital course
   .
   # S/P PEA Arrest - PEA arrest in the setting of respiratory failure and
   hypovolemia. Responded to epi and atropine
   - CE neg x 2
   - Replete lytes prn
   - Treat underlying cause as above
   - CT Head negative for bleed and ischemia. Consider head MRI once
   stable.
   # [**Name (NI) 1531**] - Pt still requiring pressors s/p PEA arrest. Likely
   cardiogenic [**Name (NI) **] with component of sepsis given hypokinetic dilated RV
   on Echo. Extremities clamped down. PE also possible given
   hypercoagulable state with malignancy, h/o [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 1532**]. Diagnosing PE,
   however, would not change management since needs anticoagulation anyway
   - continue neo for goal MAP>60, avoid levophed given rapid AF in ED
   - monitor on telemetry
   - will attempt to diurese to optimize fluid status by starting lasix
   drip, following Is and Os
   - Transfuse for HCT>25
   - Given pt recently completed course of dexamethasone for brain met
   will give stress dose steroids with hydrocort 50 Q8
   .
   # Metastatic Non Small Cell Lung Ca - metastatic to right adrenal and
   cerebellum, s/p cyber knife therapy.  Treatment of lung mass as above.
   Rad Onc consulted and will follow. No treatment recommended at this
   time
   .
   # [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]
 Will restart Lovenox tonight  given risk of having [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 1532**] +/- PE and need to anticoagulate. We will resite line today
   and she had bronch and thoracentesis so ok to restart this evening
   - restart lovenox tonight
   # Anemia - HCT drop to 20 from baseline (30-34) of unclear etiology. CT
   Abd and Pelvis negative for bleed. Possible hemorrhage related to lung
   CA and L lung collapse. HCT up to 35, stable.
   - keep HCT>25 given cardiac arrest
   - Guaiac stools
   # Atrial Fibrillation - likely worsening in setting of hypoxia and
   levophed use
 now on neosynephrine. Off amio drip and will change to
   amio 400 mg PO BID (equivalent dose to what she received IV)
   - holding metoprolol given [**Last Name (Prefixes) **]
   - will restart anticoag
   - AMio 400 PO BID
   # Hydronephrosis - CT A&P demonstrates poorly placed R ureteral stent -
   outpatient follow up
   # COPD - continue albuterol and atrovent nebs
   - monitor vent for evidence of autopeep
   # HTN - holding outpatient meds given hypotension
   # FEN
 Started TF
   # Access - Femoral line, will resite
   # Code
 Full, will have family meeting
   .
   # Dispo - ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-10-21**] 02:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-10-19**] 02:00 PM
   Multi Lumen - [**2144-10-19**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-10-21 10:18:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2144-10-21**] 03:54 AM
   Rad Onc saw pt and felt little beneift from more XRT - would be very
   low dose as she has already had 60 gy
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2144-10-21**] 08:30 AM
   Vancomycin - [**2144-10-21**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 1 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2144-10-21**] 05:47 AM
   Famotidine (Pepcid) - [**2144-10-21**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-21**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 116 (75 - 129) bpm
   BP: 107/76(81) {83/47(56) - 129/76(82)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  5,081 mL
                                                                  1,137 mL
   PO:
             TF:
             83 mL
   IVF:
                                                                  5,081 mL
                                                                  1,055 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    425 mL
   Urine:
                                                                    620 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,461 mL
                                                                    712 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (350 - 450) mL
   Vt (Spontaneous): 535 (535 - 672) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 40 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.38/45/90.[**Numeric Identifier 299**]/25/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 90
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   440 K/uL
   168 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.9 mEq/L
   19 mg/dL
   98 mEq/L
   131 mEq/L
   34.9 %
   18.1 K/uL
        [image002.jpg]
                             [**2144-10-19**]  08:30 PM
                             [**2144-10-19**]  10:53 PM
                             [**2144-10-20**]  12:24 AM
                             [**2144-10-20**]  04:29 AM
                             [**2144-10-20**]  04:44 AM
                             [**2144-10-20**]  02:10 PM
                             [**2144-10-20**]  03:34 PM
                             [**2144-10-20**]  06:48 PM
                             [**2144-10-21**]  03:00 AM
                             [**2144-10-21**]  04:43 AM
   WBC
   21.6
   18.1
   Hct
   37.0
   35.7
   34.9
   Plt
   644
   440
   Cr
   0.4
   0.6
   TropT
   0.01
   TCO2
   30
   29
   29
   28
   27
   28
   28
   Glucose
   103
   152
   168
   Other labs: PT / PTT / INR:13.8/33.1/1.2, CK / CKMB /
   Troponin-T:19/5/0.01, Differential-Neuts:92.8 %, Lymph:4.9 %, Mono:2.2
   %, Eos:0.1 %, Lactic Acid:1.6 mmol/L, Ca++:8.4 mg/dL, Mg++:2.9 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   63 yr old woman with Stage IV lung Ca presents with resp arrest,
   cardiac arrest, and hypotension.
   Possible evolution of events was that hemoptysis evolved, clotted off
   left mainstem leading to resp. distress and ultimately arrest from
   hypoxemia.
   Problems
   [**Name (NI) 1531**]
   Respiratory Failure
   Anemia
   1.       Hypoxemic Resp Distress: due to left lung collapse with
   possible post obstructive blood and or pus. Currently on AC 350 x 24,
   PIP 24, and acceptable ventilation and oxygenation.  If she re-bleeds
   needs left lung down, advance ETT into right mainstem and alert IP for
   urgent intervention. Could also try endobronchial blocker. We will
   cover with Vanco Zosyn for possible post obstructive PNA. Will speak
   with Rad Onc re role of salvage XRT.
   2.       [**Name (NI) 1531**]: Cardiac Arrest: seems that she was hypoxemic then
   bradycardic then PEA
 resolved with brief epi/atrop/CPR
 currently on
   Neo but weaning off
 goal MAP 60-65, maintain UOP 30cc/hr. Formal Echo
   pending.
   3.       Anemia: repeat Hct actually stable- initial may have been
   spurious. RP or abd bleed, may be blood in chest as source of loss
   though not overt hemoptysis now.
   4.       [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 1532**]- likely murantic- we have to hold anti coagulation
   acutely but will need to re evaluate once stable from bleeding
   standpoint.
   5.       Neuro: post arrest- short down time by report. Prelim head CT
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2144-10-21**] 02:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-10-19**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: